US08217028B2
To a solution of methyl 3-(7-{5-[3-chloro-4,5-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate (D70) (20 mg) in tetrahydrofuran (5 mL) and methanol (5 mL) stirred at 20° C. was added a solution of sodium hydroxide (9 mg) in water (5 mL) in one charge. The reaction mixture was stirred at 20° C. for 4 h. The organic solvent was evaporated off and the mixture was acidified with HCl (1 M) solution to pH around 1. Extracted with EtOAc (60 mL), the organic layer was separated and the organic solvent was evaporated off. The residue was purified by Mass Directed Auto Prep to afford 3-(7-{5-[3-chloro-4,5-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoic acid (E45) (4 mg) as a TFA salt. δH (DMSO-d6, 400 MHz): 1.34 (3H, t), 1.43 (3H, t), 2.63 (2H, t), 3.00 (2H, t), 4.19 (2H, q), 4.27 (2H, q), 7.21 (1H, t), 7.27 (1H, d), 7.80-7.84 (2H, m), 7.95 (1H, d), 8.01 (1H, d), 10.81 (1H, s), 12.09 (1H, br s). MS (ES): C23H22ClN3O5 requires 455; found 456.2 (M+H+).

reactant | methyl 3-(7-{5-[3-chloro-4,5-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate | 20 mg | ClC=1C=C(C=C(C1OCC)OCC)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC(=O)OC | C24H24ClN3O5
reactant | sodium hydroxide | 9 mg | [OH-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 3-(7-{5-[3-chloro-4,5-bis(ethyloxy)phenyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoic acid | 4 mg | ClC=1C=C(C=C(C1OCC)OCC)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC(=O)O | C23H22ClN3O5
